US05173489
9,9-Bis(4-pyridinylmethyl)-2-difluoromethyl fluorene
The title compound was prepared following the method of Example 1 from 0.6 g (2.78 mmole) of 2-difluoromethylfluorene, 1.14 g of 4picolylchloride hydrochloride, 32 mg benzyltriethylammonium chloride, 4 ml of 50% sodium hydroxide solution, and 25 ml of toluene by reaction at 50° for 6 hrs. The product was chromatographed (silica, CH2Cl2 /MeOH,10:1) to yield 0.5 g, m.p. >300°; NMR (CDCl3,200 MHz) δ: 3.43 (S,4H), 6.45(d,J=5.7Hz,4H), 6.74(t,J=56.6Hz,1H), 7.26-7.70(m.arom.), 8.1(d,J=5.7Hz,4H), HRMS calculated for C26H20N2F2 : 398.1595 Found: 398.1583.

reactant | 2-difluoromethylfluorene | 2.78 mmole, 0.6 g | FC(C1=CC=2CC3=CC=CC=C3C2C=C1)F | C14H10F2
reactant | 4picolylchloride hydrochloride | 1.14 g | Cl.N1=CC=C(C=C1)CCl
reactant | sodium hydroxide | 4 ml | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 32 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 9,9-Bis(4-pyridinylmethyl)-2-difluoromethyl fluorene | N1=CC=C(C=C1)CC1(C2=CC=CC=C2C=2C=CC(=CC12)C(F)F)CC1=CC=NC=C1 | C26H20F2N2
